* source DECODER & ENCODER
.EXTERNAL OUTPUT FLOAT
.EXTERNAL OUTPUT A
.EXTERNAL OUTPUT B
.EXTERNAL OUTPUT C
X_U1A         N00634 N00743 N00638 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00794 N00875 N00653 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00638 N00653 A $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N00731 N00743 N00670 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00838 N00875 N00682 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00670 N00682 B $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00779 N00794 N00700 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N00838 N00875 N00712 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00700 N00712 C $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_I0         STIM(1,1)
+ $G_DPWR $G_DGND
+ FLOAT 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 0.1us 0  
U_I1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00634 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.3us 0  
U_I2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00731 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.5us 0  
U_I3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00743 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.6us 1  
+ 0.7us 0  
U_I4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00779 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
+ 0.9us 0  
U_I5         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00794 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1.0us 1  
+ 1.1us 0  
U_I6         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00838 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1.2us 1  
+ 1.3us 0  
U_I7         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00875 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1.4us 1  
+ 1.5us 0  
