* source EMITTER RESISTANCE
Q_Q1         N00144 N00164 N00148 Q2N2222
R_RB1         N00156 N00164  68k TC=0,0 
R_RB2         N00164 0  24k TC=0,0 
R_Rc         N00156 N00144  3.3k TC=0,0 
R_Re         N00148 0  2k TC=0,0 
V_V1         N00156 0 12Vdc
