* source EQUIVALENT
R_R1         N00163 N00170  1k TC=0,0 
R_R2         N00170 N00174  3k TC=0,0 
R_R3         N00174 0  6k TC=0,0 
R_R4         N00217 0  3k TC=0,0 
R_R5         N00217 0  3k TC=0,0 
R_R6         N00217 0  3k TC=0,0 
V_V1         N00163 0 10Vdc
V_V2         N00217 0 10Vdc
