* source ERROR TEST
C_C1         N00184 N00188  1n  TC=0,0 
C_C2         0 N00188  1n  TC=0,0 
C_C3         N00201 N00205  1n  TC=0,0 
R_R1         N00177 N00184  1k TC=0,0 
R_R2         0 N00205  1k TC=0,0 
L_L1         N00188 N00201  10uH  
V_V1         N00177 0 DC 0  
R_R3         0 N00188  1G TC=0,0 
