* source EXCLUSIVE OR
.EXTERNAL OUTPUT X
X_U1A         N00359 N00367 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00363 N00371 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00367 N00363 N00375 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00359 N00371 N00390 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00375 N00390 X $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00359 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 0  
+ 0.4us 1  
+ 0.6us 1 
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00363 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 1  
+ 0.6us 0 
+ 0.8us 0  
