* source FILTER
D_D1         VIN VOUT Dbreak 
C_C1         VOUT 0  1000uF  TC=0,0 
R_RL         VOUT 0  100 TC=0,0 
V_V1         VIN 0  
+SIN 0 141V 60Hz 0 0 0
