* source FILTER APPLICATION
E_BPASS1         N00129 0 CHEBYSHEV {V(N00122)} BP (100Hz 1KHz 2KHz 20KHz) 2dB
+  50dB
V_V1         N00122 0 DC 0Vdc AC 1Vac 
R_R1         N00129 0  1k TC=0,0 
