* source FILTER
R_R1         N00168 N00184  100k TC=0,0 
R_R2         N00184 N00207  100k TC=0,0 
R_R3         N00180 0  50k TC=0,0 
C_C1         N00168 N00180  0.1u  TC=0,0 
C_C2         N00180 N00207  0.1u  TC=0,0 
C_C3         N00184 0  0.2u  TC=0,0 
V_V1         N00168 0  AC 1V 
