* source FILTER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00294 N00310 VCC VEE N00310 LM324
R_R1         N00345 N00341  1.414k TC=0,0 
R_R2         N00341 N00294  1.414k TC=0,0 
C_C1         N00341 N00310  0.01uF  TC=0,0 
C_C2         N00294 0  0.005uF  TC=0,0 
V_V1         N00345 0  AC 5V 
V_V2         VCC 0 DC +15V  
V_V3         VEE 0 DC -15V  
