* source FILTER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00294 N00310 VCC VEE N00325 LM324
V_V1         N01128 0  AC 5V 
C_C1         N01128 N00354  0.01uF  TC=0,0 
R_R1         N00354 N00325  10k TC=0,0 
C_C2         N00354 N00294  0.01uF  TC=0,0 
R_R2         N00294 0  10k TC=0,0 
V_V3         VEE 0 DC -15V  
V_V2         VCC 0 DC +15V  
R_R3         N00310 0  20k TC=0,0 
R_R4         N00310 N00325  20k TC=0,0 
