* source FILTER
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VCC
X_U1A         0 N00320 VCC VEE N00382 LM324
R_R1         N00348 N00333  3.98k TC=0,0 
R_R2         N00333 0  160 TC=0,0 
R_R3         N00320 N00382  15.9k TC=0,0 
C_C1         N00333 N00382  0.1uF  TC=0,0 
C_C2         N00333 N00320  0.1uF  TC=0,0 
V_V1         N00348 0  AC 5V 
V_V2         VCC 0 DC +15V  
V_V3         VEE 0 DC -15V  
