* source FILTER
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VCC
X_U1A         N00468 N00631 VCC VEE N00631 LM324
X_U1B         N00667 N00546 VCC VEE N00546 LM324
R_R1         N00476 N00472  1k TC=0,0 
R_R2         N00472 N00468  1k TC=0,0 
R_R3         N00503 N00546  800 TC=0,0 
R_R4         N00631 N00667  250 TC=0,0 
R_R5         N00667 0  10k TC=0,0 
C_C1         N00476 N00503  0.1uF  TC=0,0 
C_C2         N00503 N00468  0.1uF  TC=0,0 
C_C3         N00472 N00546  0.2uF  TC=0,0 
V_V1         N00476 0 DC 0Vdc AC 1Vac 
V_V2         VCC 0 15Vdc
V_V3         VEE 0 -15Vdc
