* source FILTER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00375 N00359 VCC VEE N00435 LM324
R_R1         N00363 N00359  18k TC=0,0 
R_R2         N00359 N00435  18k TC=0,0 
R_R3         N00363 N00375  {RMOD} TC=0,0 
C_C1         N00375 0  1800pF  TC=0,0 
V_V1         N00363 0  AC 5V
+SIN 0V 1V 60Hz 0 0 0
V_V2         VCC 0 DC 15V  
V_V3         VEE 0 DC -15V  
.PARAM  rmod=9k
