* source FLIP-FLOP
.EXTERNAL OUTPUT Q
.EXTERNAL OUTPUT NQ
X_U1A         N00379 N00404 N00387 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00387 NQ Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00404 N00383 N00391 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         Q N00391 NQ $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_S         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00379 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 0.2us 0  
+ 0.8us 1  
U_R         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00383 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.6us 0  
+ 0.8us 1 
U_CP         STIM(1,1) $G_DPWR $G_DGND N00404 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +0.1us 0
+  +0.1us 1
+ ENDREPEAT
