* source GAIN
Q_Q1         N00255 N00244 N00259 Q2N2222
C_C1         IN N00244  10uF  TC=0,0 
C_C2         N00255 OUT  10uF  TC=0,0 
R_R1         N00267 N00244  100k TC=0,0 
R_R2         N00244 0  22k TC=0,0 
R_Rc         N00267 N00255  10k TC=0,0 
R_Re         N00259 0  2k TC=0,0 
R_RL         OUT 0  10mega TC=0,0 
V_Vac         IN 0  
+SIN 0 0.5 10k 0 0 0
V_Vcc         N00267 0 12Vdc
