* source IMPEDANCE
R_R1         N00371 N00367  50 TC=0,0 
R_R2         N00387 N00379  50 TC=0,0 
R_R3         N00395 N00383  50 TC=0,0 
R_R4         N00407 N00403  50 TC=0,0 
L_L1         N00371 N00375  5m  
L_L2         N00387 N00391  15m  
L_L3         N00395 N00399  25m  
L_L4         N00407 N00411  35m  
C_C1         0 N00375  1u  TC=0,0 
C_C2         0 N00391  1u  TC=0,0 
C_C3         0 N00399  1u  TC=0,0 
C_C4         0 N00411  1u  TC=0,0 
V_V1         N00415 N00367 DC 0V  
V_V2         N00415 N00379 DC 0V  
V_V3         N00415 N00383 DC 0V  
V_V4         N00415 N00403 DC 0V  
V_V5         N00415 0  AC 1V 
