* source KCL
R_R1         N00173 N00177  1k TC=0,0 
R_R2         N00177 0  1k TC=0,0 
R_R3         N00177 0  1k TC=0,0 
R_R4         N00177 0  1k TC=0,0 
V_V1         N00173 0 10Vdc
