* source KVL
R_R1         N00099 N00106  1k TC=0,0 
R_R2         N00106 N00113  3k TC=0,0 
R_R3         N00113 0  6k TC=0,0 
V_V1         N00099 0 10Vdc
