* source LC RESONANCE
L_L1         N00128 VOUT  10uH  
C_C1         VOUT 0  {cval}  TC=0,0 
V_V1         N00128 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1ms 2ms
.PARAM  cval=0.01uf
