* source MAXIMUM POWER TRANSFER
R_Rs         N00083 N00087  1k TC=0,0 
R_RL         N00087 0  {rval} TC=0,0 
V_V1         N00083 0 1Vdc
.PARAM  rval=1k
