* source MULTIPLEXER
.EXTERNAL OUTPUT X
X_U1A         N00774 N00767 N00760 N00740 N00894 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00719 N00767 N00760 N00744 N00870 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00698 N00767 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00719 N00774 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00694 N00760 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00774 N00698 N00760 N00748 N00882 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00719 N00698 N00760 N00752 N00906 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N00894 N00870 N00882 N00906 X $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00740 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 0.2us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00744 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.6us 0  
U_C         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00748 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
+ 1.0us 0  
U_D         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00752 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1.2us 1  
+ 1.4us 0  
U_NE         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00694 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
U_S1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00698 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
U_S0         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00719 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
+ 1.2us 1 
