* source NOISE
X_U1         N00148 N00174 +15 -15 N00181 uA741
R_R1         N00247 N00148  10k TC=0,0 
R_R2         N00148 N00181  100k TC=0,0 
R_R3         0 N00174  10k TC=0,0 
R_R4         N00263 N00181  1k TC=0,0 
V_V1         N00247 N00263 DC 1V  
V_V2         +15 0 15V
V_V3         -15 0 -15V
