* source OP AMPLIFIER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00232 0 VCC VEE N00264 uA741
R_R1         N00236 N00232  1.2k TC=0,0 
R_R2         N00232 N00264  360k TC=0,0 
R_R3         0 N00264  1k TC=0,0 
V_V1         N00236 0  AC 1V 
V_V2         VCC 0 DC 15V  
V_V3         VEE 0 DC -15V  
