* source OP AMPLIFIER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
R_R3         0 N00266  10k TC=0,0 
V_V2         VCC 0 DC 15V  
R_R2         N00232 N00264  20k TC=0,0 
R_R1         N01001 N00232  2k TC=0,0 
X_U1         0 N00232 VCC VEE N00264 uA741
V_V3         VEE 0 DC -15V  
C_C1         N01087 N01001  5u  TC=0,0 
C_C2         N00264 N00266  1u  TC=0,0 
V_V4         N01087 0  AC 1V
+SIN 0V 1V 3kHz 0 0 0
