* source OP AMPLIFIER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00309 N00313 VCC VEE N00341 LM324
R_R1         N00327 N00309  10k TC=0,0 
R_R2         N00334 N00313  10k TC=0,0 
R_R3         N00313 N00341  20k TC=0,0 
R_R4         N00309 0  20k TC=0,0 
R_R5         0 N00341  1k TC=0,0 
V_V1         VCC 0 DC 15V  
V_V2         VEE 0 DC -15V  
V_V3         N00327 0  
+SIN 0V 2V 10kHz 0 0 0
V_V4         N00334 0  
+SIN 0V 0.25V 10kHz 0 0 0
