* source OP AMPLIFIER
.EXTERNAL OUTPUT VA
.EXTERNAL OUTPUT VB
.EXTERNAL OUTPUT VC
.EXTERNAL OUTPUT VD
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00557 N00675 VCC VEE N00668 uA741
R_R1         VA N00557  10k TC=0,0 
R_R2         VB N00557  10k TC=0,0 
R_R3         VC N00557  10k TC=0,0 
R_R4         VD N00557  10k TC=0,0 
R_R5         0 N00557  10k TC=0,0 
R_R6         N00668 N00675  4k TC=0,0 
R_R7         0 N00675  4k TC=0,0 
V_V1         VCC 0 DC 15V  
V_V2         VEE 0 DC -15V  
V_V3         VA 0  
+PWL 0ms 0mV 0ms 0mV 0ms 0mV 1ms 0mV 1ms 0mV 1ms 200mV 2ms 200mV 2ms 200mV 
V_V4         VB 0  
+PWL 2ms 400mV 3ms 400mV 3ms 400mV 3ms 600mV 4ms 600mV 4ms 600mV 4ms 800mV 5ms
+  800mV 
V_V5         VC 0  
+PWL 5ms 800mV 5ms 1000mV 6ms 1000mV 6ms 1000mV 6ms 1200mV 7ms 1200mV 7ms
+  1200mV 7ms 1400mV 
V_V6         VD 0  
+PWL 8ms 1400mV 8ms 1400mV 8ms 1600mV 9ms 1600mV 9ms 1600mV 9ms 1800mV 10ms
+  1800mV 10ms 1800mV 
