* source OP-AMP CIRCUIT
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
V_VEE         VEE 0 -15Vdc
R_RL         OUT 0  3.5k TC=0,0 
X_U1A         0 N01306 VCC VEE OUT LM324
V_VCC         VCC 0 15Vdc
R_R1         IN N01306  1k TC=0,0 
V_Vin         IN 0  
+SIN 0 500mV 1K 0 0 0
R_R2         N01306 OUT  2k TC=0,0 
