* source OP-AMP CIRCUIT
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
R_R2         N01306 OUT  2k TC=0,0 
R_RL         OUT 0  3.5k TC=0,0 
R_R1         0 N01306  1k TC=0,0 
V_VEE         VEE 0 -15Vdc
X_U1A         IN N01306 VCC VEE OUT LM324
V_Vin         IN 0  
+SIN 0 500mV 1K 0 0 0
V_VCC         VCC 0 15Vdc
