* source OP-AMP INPUT BIAS
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00346 N00350 VCC VEE N00303 LM324
R_R1         0 N00346  1k TC=0,0 
R_R2         0 N00350  1k TC=0,0 
R_R3         N00303 0  3.5k TC=0,0 
V_VCC         VCC 0 +15Vdc
V_VEE         VEE 0 -15Vdc
