* source OP-AMP OUTPUT BIAS
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
R_RL         OUT 0  {rval} TC=0,0 
V_VCC         VCC 0 15Vdc
X_U1A         IN 0 VCC VEE OUT LM324
V_VEE         VEE 0 -15Vdc
V_Vin         IN 0 1Vdc
.PARAM  rval=1k
