* source OP-AMP P(IDLE)
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         0 0 VCC VEE 0 LM324
V_VCC         VCC 0 +15Vdc
V_VEE         VEE 0 -15Vdc
