* source OP-AMP SLEW RATE
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         IN OUT VCC VEE OUT LM324
R_RL         OUT 0  3.9k TC=0,0 
V_V1         IN 0  
+PULSE -5 5 20us 0.1n 0.1n 60u 100u
V_VCC         VCC 0 15Vdc
V_VEE         VEE 0 -15Vdc
