* source OP-AMP SWING
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00198 0 VCC VEE OUT LM324
V_VCC         VCC 0 +15Vdc
V_VEE         VEE 0 -15Vdc
V_Vin         N00198 0 1Vdc
R_RL         OUT 0  3.5k TC=0,0 
