* source OPERATION MODE
Q_Q1         OUT N00135 0 Q2N2222
R_R1         N00128 N00135  10k TC=0,0 
R_R2         N00143 OUT  1k TC=0,0 
V_Vdc         N00128 0 0Vdc
V_Vcc         N00143 0 5Vdc
