* source PARAMETRIC
X_U1         N00196 0 VCC VEE N00213 LF411
R_R1         N00340 N00251  1k TC=0,0 
R_R2         N00251 0  1k TC=0,0 
R_R3         N00251 N00196  1k TC=0,0 
R_R4         N00196 N00213  1k TC=0,0 
R_R5         N00213 N00247  1k TC=0,0 
C_C1         N00251 0  1n  TC=0,0 
C_C2         N00247 0  {Cvar}  TC=0,0 
V_V1         N00340 0  
+PULSE 0 1 0.1u 0.01u 
V_V2         VCC 0 15V
V_V3         VEE 0 -15V
.PARAM  cvar=1n
