* source PASSIVE
R_R1         N00170 N00129  1k TC=0,0 
R_R2         N00129 0  2k TC=0,0 
R_R3         N00129 0  4k TC=0,0 
V_V1         N00170 0 DC 10V  
