* source PASSIVE
R_R1         N00086 N00093  1k TC=0,0 
C_C1         0 N00093  1u  TC=0,0 
V_V1         N00086 0  AC 5V
+PWL 0s 0V 1.0ms 0V 1.0001ms 5V 2.0ms 5V 3.0ms 5V 3.0001ms 0V 4.0ms 0V 5.0ms
+  0V 
