* source PASSIVE
X_TX1    N00134 0 N00175 0 SCHEMATIC4_TX1 
R_R1         N00141 N00134  1 TC=0,0 
R_R2         0 N00175  100k TC=0,0 
V_V1         N00141 0  AC 10V
+SIN 0V 10V 200Hz 0 0 0

.subckt SCHEMATIC4_TX1 1 2 3 4  
L1_TX1         1 2 1000
L2_TX1         3 4 3000
K_TX1         L1_TX1 L2_TX1 0.999 K3019PL_3C8
.ends SCHEMATIC4_TX1
