* source RL DIFFERENTIAL
R_R1         N00164 N00171  100 TC=0,0 
L_L1         0 N00171  {lval}  
V_V1         N00164 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1ms 2ms
.PARAM  lval=1mh
