* source RLC
R_R1         N00185 0  1 TC=0,0 
R_R2         N00185 N00192  1 TC=0,0 
R_R3         N00185 N00224  1 TC=0,0 
L_L1         N00192 0  220uH  
C_C1         N00224 0  220uF  TC=0,0 
V_V1         N00185 0  
+PULSE 0 1 1m 0.1n 0.1n 3ms 5ms
