* source RLC
I_I1         N00111 0  AC 40mV
+PWL 0s 0mA 2ms 2mA 4ms 4mA 6ms 6mA 8ms 8mA 10ms 10mA 
R_R1         N00111 0  1k TC=0,0 
C_C1         N00111 0  2uF  TC=0,0 
L_L1         N00111 0  2mH  
