* source RLC
L_L1         N00359 N00363  2mH  
R_R1         N00111 N00359  10 TC=0,0 
C_C1         N00363 0  2uF  TC=0,0 
V_V1         N00111 0  
+PWL 0s 0mA 0.5ms 50mA 1.0ms 25mA 1.5ms 12.5mA 2.0ms 6.25mA 2.5ms 3.125mA
+  3.0ms 1.5625mA 
