* source RECTIFICATION
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00325 N00272 VCC VEE N00311 uA741
R_R1         N00265 N00272  1k TC=0,0 
R_R2         N00272 N00332  3.9k TC=0,0 
R_R3         N00325 0  820 TC=0,0 
R_RLOAD         N00332 0  1k TC=0,0 
D_D1         N00272 N00311 D1N4148 
D_D2         N00311 N00332 D1N4148 
V_V1         VCC 0 DC 15V  
V_V2         0 VEE DC 15V  
V_V3         N00265 0  
+SIN 0V 2V 1KHz 0 0 0
