* source RECTIFICATION
R_R2         N00263 0  1k TC=0,0 
V_V1         N00255 N00259  
+SIN 0V 110V 60Hz 0 0 0
D_D1         N00255 N00215 D1N4148 
C_C1         N00215 N00263  680uF  TC=0,0 
D_D2         N00259 N00215 D1N4148 
C_C2         N00263 0  680uF  TC=0,0 
D_D3         0 N00255 D1N4148 
D_D4         0 N00259 D1N4148 
R_R1         N00215 N00263  1k TC=0,0 
