* source RECTIFICATION
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00585 N00390 VCC VEE N00423 uA741
X_U2         N00653 N00616 VCC VEE N00660 uA741
R_R1         N00578 N00390  1k TC=0,0 
R_R2         N00390 N00534  2k TC=0,0 
R_R3         N00585 0  680 TC=0,0 
R_R4         N00534 N00616  1k TC=0,0 
R_R5         N00616 N00660  1k TC=0,0 
R_R6         N00653 0  470 TC=0,0 
R_R7         N00578 N00616  1k TC=0,0 
R_RLOAD         N00660 0  1k TC=0,0 
D_D1         N00423 N00390 D1N4148 
D_D2         N00534 N00423 D1N4148 
V_V1         VCC 0 DC 15V  
V_V2         0 VEE DC 15V  
V_V3         N00578 0  
+SIN 0V 2V 1KHz 0 0 0
